US04459150
n-Butylpentafluorobenzene [19.0 g; described by J. M. Birchall and R. N. Haszeldine J. Chem. Soc p 3719 (1961)] was added to a solution of hydrazine hydrate (50 ml; 99-100% w/w) in ethanol (100 ml) and the mixture heated at reflux for 72 hours. The reaction mixture was cooled, evaporated to dryness to give a solid which was filtered off and washed with ethanol and hexane to give 4-n-butyl-2,3,5,6-tetrafluorophenylhydrazine (20.5 g), m.p. 80°-81° C., in the form of colourless crystals.

reactant | n-Butylpentafluorobenzene | 19.0 g | C(CCC)C1=C(C(=C(C(=C1F)F)F)F)F | C10H9F5
reactant | hydrazine hydrate | 50 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-n-butyl-2,3,5,6-tetrafluorophenylhydrazine | 20.5 g | C(CCC)C1=C(C(=C(C(=C1F)F)NN)F)F | C10H12F4N2
